US06432981B1
Step C: 1-(t-Butoxycarbonyl)-4-hydroxy-4-(2-ethyl-indazol-3-yl)piperidine
To a solution of 2-ethyl-3-bromoindazole (3.4 g, 15.18 mmol) in THF (30 mL) was added t-BuLi (1.7 M in pentane, 10.72 mL, 18.22 mmol) dropwise at −78° C. After stirring at −78° C. for 20 min., was added tert-butyl 4-oxo-1-piperidinecarboxylate (3.03 g, 15.18 mmol) in THF (10 mL) dropwise at −78° C. The mixture was stirred at −78° C. for 10 min. and at rt for 18 h. After the reaction was quenched with aq. NH4Cl, the mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (3×). The combined organic phases were washed with brine, and dried over anhydrous magnesium sulfate. Concentration followed by purification by flash chromatography (hexanes ethyl acetate=4:1, then 1:1) to give 1.18 g of the title compound as a foamy solid.

reactant | 2-ethyl-3-bromoindazole | 15.18 mmol, 3.4 g | C(C)N1N=C2C=CC=CC2=C1Br | C9H9BrN2
reactant | t-BuLi | 18.22 mmol, 1.7 M, 10.72 mL | [Li]C(C)(C)C
reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 15.18 mmol, 3.03 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(t-Butoxycarbonyl)-4-hydroxy-4-(2-ethyl-indazol-3-yl)piperidine | 1.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=1N(N=C2C=CC=CC12)CC)O | C19H27N3O3
